US04060626
4-Bromo-5-methylindole-2-carboxylic acid m.p. 278°-279° C. (recrystallized from ethyl acetate)
The compound was prepared via 3-bromo-2,4-dimethylnitrobenzene (m.p. 52° C) and 3-(2-bromo-3-methyl-6-nitrophenyl)pyruvic acid (m.p. 196° C).

reactant | 3-bromo-2,4-dimethylnitrobenzene | BrC=1C(=C(C=CC1C)[N+](=O)[O-])C | C8H8BrNO2
reactant | 3-(2-bromo-3-methyl-6-nitrophenyl)pyruvic acid | BrC1=C(C(=CC=C1C)[N+](=O)[O-])CC(C(=O)O)=O | C10H8BrNO5
product | 4-Bromo-5-methylindole-2-carboxylic acid | BrC1=C2C=C(NC2=CC=C1C)C(=O)O | C10H8BrNO2
